US09034866B2
Synthesis of (±)-9-(3-Cyclopropylcarbamoyl-3-hydroxy-but-1-ynyl)-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
Into a 8-mL vial, was placed a solution of methyl 4-[4-carbamoyl-12-fluoro-9-oxa-3,6-diazatricyclo[8.4.0.0[2,6]]tetradeca-1(14),2,4,10,12-pentaen-13-yl]-2-hydroxy-2-methylbut-3-ynoate (120 mg, 0.32 mmol, 1.00 equiv) and cyclopropanamine (1.83 g, 32.05 mmol, 99.72 equiv) in methanol (2 mL). The resulting solution was stirred for 12 h at 40° C. in an oil bath and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (30:1). This resulted in 23 mg (18%) of 9-(3-Cyclopropylcarbamoyl-3-hydroxy-but-1-ynyl)-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide as a yellow solid. LC-MS: (ES, m/z): 399 [M+H]+; 1H-NMR: (300 MHz, DMSO-d6, ppm): δ 8.558 (d, 1H), 7.892 (d, 1H), 7.782 (s, 1H), 7.575 (br s, 1H), 7.126 (br s, 1H), 7.023 (d, 1H), 6.510 (s, 1H), 4.600-4.400 (m, 4H), 2.800-2.600 (m, 1H), 1.600 (s, 3H), 0.633-0565 (m, 4H).

reactant | methyl 4-[4-carbamoyl-12-fluoro-9-oxa-3,6-diazatricyclo[8.4.0.0[2,6]]tetradeca-1(14),2,4,10,12-pentaen-13-yl]-2-hydroxy-2-methylbut-3-ynoate | 0.32 mmol, 120 mg, 1.00 equiv | C(N)(=O)C=1N=C2C3=CC(=C(C=C3OCCN2C1)F)C#CC(C(=O)OC)(C)O | C18H16FN3O5
reactant | cyclopropanamine | 32.05 mmol, 1.83 g, 99.72 equiv | C1(CC1)N | C3H7N
solvent | methanol | 2 mL | CO | CH4O
product | (±)-9-(3-Cyclopropylcarbamoyl-3-hydroxy-but-1-ynyl)-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | C1(CC1)NC(=O)C(C#CC=1C(=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)F)(C)O | C20H19FN4O4
